US05025031
Sulfamic acid 3,5-bis(trifluoromethyl)phenyl ester
This compound was prepared using the procedure of Example 56 from a mixture of 9.8 g (0.043 mole) of 3,5-bis(trifluoromethyl)phenol and 3.9 ml (0.095 mole) of chlorosulfonyl isocyanate in 50 ml of toluene. The solid product was recrystallized from benzene to yield 6.4 g (48%) of a pale yellow solid, mp 118°-120° C.

reactant | 3,5-bis(trifluoromethyl)phenol | 0.043 mole, 9.8 g | FC(C=1C=C(C=C(C1)C(F)(F)F)O)(F)F | C8H4F6O
reactant | chlorosulfonyl isocyanate | 0.095 mole, 3.9 ml | ClS(=O)(=O)N=C=O | CClNO3S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | Sulfamic acid 3,5-bis(trifluoromethyl)phenyl ester | 6.4 g, 48% | FC(C=1C=C(C=C(C1)C(F)(F)F)OS(N)(=O)=O)(F)F | C8H5F6NO3S
